US04743601
3-Bromo-N-(2-hydroxyethyl)-4-quinolinamine
A mixture of 9.1 g of 3-bromo-4-chloro-quinoline and 2.0 g of ethanolamine was heated at 150° C. for 30 minutes. The reaction mixture was cooled, 60 ml of water was added and the precipitate was collected by filtration and recrystallized from isopropanol. The yield was 9.5 g, mp 163°-165° C.

reactant | 3-bromo-4-chloro-quinoline | 9.1 g | BrC=1C=NC2=CC=CC=C2C1Cl | C9H5BrClN
reactant | ethanolamine | 2.0 g | C(O)CN | C2H7NO
solvent | water | 60 ml | O | H2O
product | 3-Bromo-N-(2-hydroxyethyl)-4-quinolinamine | BrC=1C=NC2=CC=CC=C2C1NCCO | C11H11BrN2O
